US07179934B2
(2R,3R)-2,3-Dimethyl-hexan-1-ol
A 1M THF solution of LAH (95.9 mL, 95.9 mmol) was added to (R)-3-((2R,3R)-2,3-dimethyl-hexanoyl)-4-phenyl-oxazolidin-2-one in THF (300 mL) under nitrogen at −78° C. and stirred for 3 hours at that temperature. Water was added dropwise to quench the excess LAH and the solution was poured into a mixture of ice and ether. The mixture was extracted into ether, washed with water and dried over MgSO4. The solution was concentrated followed by the addition of excess hexane. The resulting white precipitate was filtered and washed with haxane. The filtrate was concentrated to afford the titled compound (5.05 g, 100% yield) as an oil: 1H NMR (400 MHz, CDCl3) δ ppm 0.9 (m, 9 H) 1.0 (d, J=6.8 Hz, 1 H) 1.1 (m, 1 H) 1.2 (m, 3 H) 1.6 (m, 2 H) 3.4 (m, 1 H) 3.6 (m, 1 H).

reactant | LAH | 95.9 mmol, 95.9 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (R)-3-((2R,3R)-2,3-dimethyl-hexanoyl)-4-phenyl-oxazolidin-2-one | C[C@@H](C(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)[C@@H](CCC)C | C17H23NO3
reactant | Water | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 1M | C1CCOC1 | C4H8O
product | (2R,3R)-2,3-Dimethyl-hexan-1-ol | 5.05 g, 100% yield | C[C@@H](CO)[C@@H](CCC)C | C8H18O
